US07524847B2
4-[9-(2-Cyanobenzyl)-8-oxo-8,9-dihydro-7H-purin-6-yl]-piperazine-1-carboxylic acid t-butyl ester
Sodium acetate (0.168 g) and sodium bicarbonate (0.100 g) were added to a solution of 4-[8-chloro-9-(2-cyanobenzyl)-9H-purin-6-yl]-piperazine-1-carboxylic acid t-butyl ester (0.100 g) in dimethylsulfoxide (3 mL). This was then heated at 135° C. for 45 hours. The reaction solution was filtered, and then directly loaded onto a column for purification by reverse phase high performance liquid chromatography to give the title compound (0.044 g).

reactant | Sodium acetate | 0.168 g | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | 0.100 g | C([O-])(O)=O.[Na+]
reactant | 4-[8-chloro-9-(2-cyanobenzyl)-9H-purin-6-yl]-piperazine-1-carboxylic acid t-butyl ester | 0.100 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=C(N(C2=NC=N1)CC1=C(C=CC=C1)C#N)Cl | C22H24ClN7O2
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 4-[9-(2-Cyanobenzyl)-8-oxo-8,9-dihydro-7H-purin-6-yl]-piperazine-1-carboxylic acid t-butyl ester | 0.044 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2NC(N(C2=NC=N1)CC1=C(C=CC=C1)C#N)=O | C22H25N7O3
